** sch_path: /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/pfd_charge_pump.sch
**.subckt pfd_charge_pump
XM1 DOWN_gate DOWN_gate GND GND sky130_fd_pr__nfet_01v8 L=0.6 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 x DOWN_gate GND GND sky130_fd_pr__nfet_01v8 L=0.6 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 VDD opamp_out net4 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V1 VDD GND 1.8
I0 VDD DOWN_gate 100u
Vmeas1 net4 x 0
.save i(vmeas1)
XM4 UP_input UP_b opamp_out VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 UP_input UP VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net1 UP_input VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas2 net1 net3 0
.save i(vmeas2)
XM7 DOWN_input DOWN DOWN_gate GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 DOWN_input DOWN_b GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas3 net3 net2 0
.save i(vmeas3)
XM9 net2 DOWN_input GND GND sky130_fd_pr__nfet_01v8 L=0.6 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x7 UP_PFD_b GND GND VDD VDD UP sky130_fd_sc_hd__inv_1
x8 UP_PFD GND GND VDD VDD UP_PFD_b sky130_fd_sc_hd__inv_1
x9 DOWN_PFD GND GND VDD VDD DOWN_b sky130_fd_sc_hd__inv_1
x3 UP GND GND VDD VDD UP_b sky130_fd_sc_hd__inv_2
x1 DOWN_b GND GND VDD VDD DOWN sky130_fd_sc_hd__inv_2
XC2 Vout GND sky130_fd_pr__cap_mim_m3_1 W=45 L=100 MF=1 m=1
XC1 net5 GND sky130_fd_pr__cap_mim_m3_1 W=230 L=100 MF=1 m=1
V2 F_REF GND pulse(0 1.8 12ns 1ns 1ns 24ns 50ns)
V3 F_VCO GND pulse(0 1.8 22ns 1ns 1ns 24ns 50ns)
x4 F_REF F_VCO VDD UP_PFD DOWN_PFD GND phase_frequency_detector
Vmeas4 net3 Vout 0
.save i(vmeas4)
x2 VDD net3 x opamp_out GND rail_to_rail_opamp3
XC4 VDD opamp_out sky130_fd_pr__cap_mim_m3_1 W=15 L=15 MF=1 m=1
XC3 UP_input UP_b sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1 m=1
XC5 DOWN DOWN_input sky130_fd_pr__cap_mim_m3_1 W=3 L=2.4 MF=1 m=1
XR1 net5 Vout GND sky130_fd_pr__res_xhigh_po_0p35 L=4 mult=1 m=1
**** begin user architecture code

.param mc_mm_switch=0
.param mc_pr_switch=0
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice




.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

.option method=gear trtol1
.option wnflag=1
* .option savecurrents

* .temp = 75

.ic v(vout) = 1.2

.save
+v(up_pfd)
+v(down_pfd)
+v(up_pfd_b)
+v(down_pfd_b)
+v(up)
+v(up_b)
+v(down)
+v(down_b)
+v(v2)
+v(x)
+v(y)
+v(z)
+v(vout)
+v(up_input)
+v(down_input)
+v(down_gate)
+v(opamp_out)
+v(x2.p_bias)
+v(x2.n_bias)
+v(x2.v_common_p)
+v(x2.v_common_n)
+v(x2.p_left)
+v(x2.p_right)
+v(x2.n_left)
+v(x2.n_right)
+v(f_ref)
+v(f_vco)
+v(x4.qa)
+v(x4.qa_b)
+v(x4.qb)
+v(x4.qb_b)
+v(x4.qa)
+v(x4.e)
+v(x4.e_b)
+v(x4.f)
+v(x4.f_b)
+v(x4.before_reset)
+v(x4.reset)


.control
  * save v(up_pfd) v(down_pfd) v(up_pfd_b) v(down_pfd_b) v(up) v(up_b) v(down) v(down_b) v(x) v(vout) v(up_input) v(down_input)
  * save all

  tran 0.1ns 1us
  * dc v2 0 1.8 0.01
  remzerovec
  write pfd_charge_pump.raw
  * wrdata /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/charge_pump2_QA.txt v(osc)
  set appendwrite

.endc






**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/my_design/projects/pll/pfd/xschem_ngspice/phase_frequency_detector.sym # of pins=6
** sym_path: /foss/designs/my_design/projects/pll/pfd/xschem_ngspice/phase_frequency_detector.sym
** sch_path: /foss/designs/my_design/projects/pll/pfd/xschem_ngspice/phase_frequency_detector.sch
.subckt phase_frequency_detector F_REF F_VCO VDDA QA QB GNDA
*.ipin F_REF
*.opin QA
*.ipin F_VCO
*.opin QB
*.ipin VDDA
*.ipin GNDA
x1 F_REF QA GNDA GNDA VDDA VDDA QA_b sky130_fd_sc_hd__nor2_1
x2 QA_b E GNDA GNDA VDDA VDDA QA sky130_fd_sc_hd__nor2_1
x3 QA_b E_b GNDA GNDA VDDA VDDA E sky130_fd_sc_hd__nor2_1
x4 E Reset GNDA GNDA VDDA VDDA E_b sky130_fd_sc_hd__nor2_1
x5 F_VCO QB GNDA GNDA VDDA VDDA QB_b sky130_fd_sc_hd__nor2_1
x6 QB_b F GNDA GNDA VDDA VDDA QB sky130_fd_sc_hd__nor2_1
x7 QB_b F_b GNDA GNDA VDDA VDDA F sky130_fd_sc_hd__nor2_1
x8 F Reset GNDA GNDA VDDA VDDA F_b sky130_fd_sc_hd__nor2_1
x9 QA QB GNDA GNDA VDDA VDDA before_Reset sky130_fd_sc_hd__nand2_1
x10 before_Reset GNDA GNDA VDDA VDDA net1 sky130_fd_sc_hd__inv_1
x11 net1 GNDA GNDA VDDA VDDA net2 sky130_fd_sc_hd__inv_1
x12 net2 GNDA GNDA VDDA VDDA net3 sky130_fd_sc_hd__inv_1
x13 net3 GNDA GNDA VDDA VDDA net4 sky130_fd_sc_hd__inv_1
x14 net4 GNDA GNDA VDDA VDDA Reset sky130_fd_sc_hd__inv_1
.ends


* expanding   symbol:  /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/rail_to_rail_opamp3.sym # of pins=5
** sym_path: /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/rail_to_rail_opamp3.sym
** sch_path: /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/rail_to_rail_opamp3.sch
.subckt rail_to_rail_opamp3 VDDA Vin+ Vin- Vout GNDA
*.opin Vout
*.ipin Vin+
*.ipin Vin-
*.ipin VDDA
*.ipin GNDA
XM2 n_left Vin+ v_common_n GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 n_right Vin- v_common_n GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 n_left n_left VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 n_right n_left VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 v_common_p p_bias VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 p_left Vin+ v_common_p VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 p_right Vin- v_common_p VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 p_left p_left GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 p_right p_left GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 v_common_n n_bias GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 Vout n_right VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 Vout p_right GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 n_bias n_bias GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 p_bias p_bias VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas net1 n_bias 0
.save i(vmeas)
XM14 net1 net1 p_bias p_bias sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
